US08202885B2
150 mg of 3-[4,5-diphenyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazol-2-yl]-propionic acid methyl ester were dissolved in 1 mL of ethanol and treated with 0.7 mL of a 1M aq. solution of sodium hydroxide. The mixture was partitioned between water and Et2O. The aq. layer was separated, acidified with 25%-HCl and extracted with DCM. The organic phase was dried over anh. Na2SO4 and concentrated in vacuo to give 137 mg of 3-[4,5-diphenyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazol-2-yl]-propionic acid the product as a white solid.

reactant | 3-[4,5-diphenyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazol-2-yl]-propionic acid methyl ester | 150 mg | COC(CCC=1N(C(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1)COCC[Si](C)(C)C)=O | C25H32N2O3Si
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | 3-[4,5-diphenyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazol-2-yl]-propionic acid | 137 mg | C1(=CC=CC=C1)C=1N=C(N(C1C1=CC=CC=C1)COCC[Si](C)(C)C)CCC(=O)O | C24H30N2O3Si
